datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[C:35]([H:36])([H:37])[H:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:35]([H:36])([H:37])[H:38],22.92832
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([H:17])([H:18])[H:19])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:14])[H:5].[C:12]([C:13]([H:17])([H:18])[H:19])([H:15])[H:16],75.312
[C:0]([S:1][S:2][H:6])([H:3])([H:4])[H:5].[C:7]([S:8])([H:9])([H:10])[H:11]>>[C:0]([S:1][S:2][S:8][C:7]([H:9])([H:10])[H:11])([H:3])([H:4])[H:5].[H:6],85.6883
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([H:10])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:9])([H:7])[H:8],41.6308
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[C:17]([C:18]([H:24])([H:25])[H:26])[C:19]([H:27])([H:28])[H:29])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:16]([C:15]([H:20])([H:21])[H:22])([C:17]([C:18]([H:24])([H:25])[H:26])[C:19]([H:27])([H:28])[H:29])[H:23])[H:8])([H:6])[H:7],71.379
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:4][H:14])[C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:9])[H:10].[O:3][O:4][H:14],64.852
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17])([H:4])([H:5])[H:6],-0.54392
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](#[C:19][C:20]([C:21]([H:24])([H:25])[H:26])[C:22]([H:27])([H:28])[H:29])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19]#[C:18][H:23])([C:21]([H:24])([H:25])[H:26])[C:22]([H:27])([H:28])[H:29])[H:8],29.1206
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9]#[C:8][H:11])([H:12])[H:13],111.88
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[S:9][H:16])([H:10])([H:11])[H:12]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[S:9][H:16],-7.5312
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([c:6]1[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]1[H:21])[H:16])[H:12].[H:22]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([c:6]1[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]1[H:21])[H:16])[H:22])[H:12],20.2924
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21]([C:22]([H:32])([H:33])[H:34])[c:23]1[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]1[H:39])([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:21]([C:20]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[c:23]1[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]1[H:39])[H:12])([H:10])[H:11],35.313
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([C:3]([H:12])([H:13])[H:14])([H:11])[C:4]([H:15])([H:16])[O:5]1.[O:6][H:17],43.932
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:20][H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[H:6][O:20][H:21],4.075216
[C:0]([C:1]1([H:9])[C:2]([H:10])=[C:3]([H:11])[C:4]([H:12])=[C:5]([H:13])[C:6]1([H:14])[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:10])=[C:3]([H:11])[C:4]([H:12])=[C:5]([H:13])[C:6]1([H:14])[H:15])([H:7])[H:8].[H:9],118.4072
